US06794397B2
5-Methyl-N-(4-ethoxy-2-nitrophenyl)-2-pyrazinecarboxamide
The title compound was prepared from 2-methylpyrazine-5-carboxylic acid and 4-ethoxy-2-nitroaniline as a yellow solid as described in Example 15. 1H NMR (CDCl3): 12.82 (s, 1H), 9.36 (s, 1H), 8.90 (d, J=9.6, 1H), 8.56 (d, J=1.0. 1H), 7.74 (d, J=2.7, 1H), 7.32-7.29 (m, 1H), 4.11 (q, J=6.9, 2H), 2.71 (s, 3H), 1.46 (t, J=6.9, 3H).

reactant | 2-methylpyrazine-5-carboxylic acid | CC1=NC=C(N=C1)C(=O)O | C6H6N2O2
reactant | 4-ethoxy-2-nitroaniline | C(C)OC1=CC(=C(N)C=C1)[N+](=O)[O-] | C8H10N2O3
product | 5-Methyl-N-(4-ethoxy-2-nitrophenyl)-2-pyrazinecarboxamide | CC=1N=CC(=NC1)C(=O)NC1=C(C=C(C=C1)OCC)[N+](=O)[O-] | C14H14N4O4
